US08349880B2
Step T (4) [80456-011]: Iodomethane (0.281 mL, 4.51 mmol) was added to a solution of 1-(4-(3,5-dimethyl-1H-1,2,4-triazol-1-yl)-3-fluorophenyl)thiourea (1.14 g, 4.30 mmol) in absolute ethanol (50 mL). The resulting mixture was heated at 70° C. for 3 h. After cooling to rt, the reaction was concentrated in vacuo. The residual volatiles were removed under high vacuum to afford methyl 4-(3,5-dimethyl-1H-1,2,4-triazol-1-yl)-3-fluorophenylcarbamimidothioate, hydroiodide (1.76 g, 4.32 mmol, 101% yield) as a grey solid. LC-MS (M+H)+ 280.1.

reactant | Iodomethane | 4.51 mmol, 0.281 mL | IC | CH3I
reactant | 1-(4-(3,5-dimethyl-1H-1,2,4-triazol-1-yl)-3-fluorophenyl)thiourea | 4.30 mmol, 1.14 g | CC1=NN(C(=N1)C)C1=C(C=C(C=C1)NC(=S)N)F | C11H12FN5S
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | methyl 4-(3,5-dimethyl-1H-1,2,4-triazol-1-yl)-3-fluorophenylcarbamimidothioate, hydroiodide | 4.32 mmol, 1.76 g, 101% yield | I.CC1=NN(C(=N1)C)C1=C(C=C(C=C1)NC(=N)SC)F | InChI=1S/C12H14FN5S.HI/c1-7-15-8(2)18(17-7)11-5-4-9(6-10(11)13)16-12(14)19-3;/h4-6H,1-3H3,(H2,14,16);1H
